** Name: SymmetricalOpAmp65

.MACRO SymmetricalOpAmp65 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=25e-6
mDiodeTransistorNmos2 innerComplementarySecondStage innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=7e-6 W=125e-6
mDiodeTransistorNmos3 outVoltageBiasXXnXX1 outVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=3e-6 W=5e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=16e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=266e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=16e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=266e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage ibias sourceNmos sourceNmos nmos4 L=6e-6 W=409e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=193e-6
mNormalTransistorNmos10 inputVoltageBiasXXpXX0 ibias sourceNmos sourceNmos nmos4 L=6e-6 W=42e-6
mNormalTransistorNmos11 out outVoltageBiasXXnXX1 SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=3e-6 W=33e-6
mNormalTransistorNmos12 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=193e-6
mNormalTransistorNmos13 FirstStageYinnerStageBias ibias sourceNmos sourceNmos nmos4 L=6e-6 W=600e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance outVoltageBiasXXnXX1 FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=3e-6 W=123e-6
mNormalTransistorNmos15 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=7e-6 W=125e-6
mNormalTransistorPmos16 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=51e-6
mNormalTransistorPmos17 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=51e-6
mNormalTransistorPmos18 outVoltageBiasXXnXX1 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=2e-6 W=56e-6
mNormalTransistorPmos19 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=256e-6
mNormalTransistorPmos20 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=256e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp65

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 3.61801 mW
** Area: 14513 (mu_m)^2
** Transit frequency: 14.3121 MHz
** Transit frequency with error factor: 14.3117 MHz
** Slew rate: 23.5594 V/mu_s
** Phase margin: 65.8902°
** CMRR: 141 dB
** negPSRR: 55 dB
** posPSRR: 44 dB
** VoutMax: 4.42001 V
** VoutMin: 0.630001 V
** VcmMax: 4.62001 V
** VcmMin: 1.5 V


** Expected Currents: 
** NormalTransistorNmos: 16.5591 muA
** NormalTransistorNmos: 162.454 muA
** NormalTransistorPmos: -57.2829 muA
** DiodeTransistorPmos: -120.665 muA
** DiodeTransistorPmos: -120.665 muA
** NormalTransistorNmos: 241.33 muA
** NormalTransistorNmos: 241.329 muA
** NormalTransistorNmos: 120.666 muA
** NormalTransistorNmos: 120.666 muA
** NormalTransistorNmos: 118.01 muA
** NormalTransistorNmos: 118.009 muA
** NormalTransistorPmos: -118.009 muA
** NormalTransistorPmos: -118.008 muA
** DiodeTransistorNmos: 118.01 muA
** NormalTransistorPmos: -118.009 muA
** NormalTransistorPmos: -118.008 muA
** DiodeTransistorNmos: 57.2821 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorPmos: -16.5599 muA
** DiodeTransistorPmos: -162.453 muA


** Expected Voltages: 
** ibias: 0.573001  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.21001  V
** innerComplementarySecondStage: 0.684001  V
** inputVoltageBiasXXpXX0: 4.09601  V
** out: 2.5  V
** outFirstStage: 4.21001  V
** outVoltageBiasXXnXX1: 1.03901  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.371001  V
** sourceTransconductance: 1.83601  V
** innerStageBias: 0.279001  V
** innerTransconductance: 4.60901  V
** inner: 4.60901  V


.END