** Name: SymmetricalOpAmp70

.MACRO SymmetricalOpAmp70 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 ibias ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=9e-6 W=31e-6
mDiodeTransistorNmos2 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=85e-6
mDiodeTransistorNmos3 innerComplementarySecondStage innerComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=4e-6 W=85e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=47e-6
mDiodeTransistorPmos5 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=3e-6 W=20e-6
mDiodeTransistorPmos6 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=22e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=22e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=318e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=14e-6
mNormalTransistorNmos10 out innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=4e-6 W=85e-6
mNormalTransistorNmos11 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=2e-6 W=14e-6
mNormalTransistorNmos12 FirstStageYinnerStageBias outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=285e-6
mNormalTransistorNmos13 FirstStageYsourceTransconductance ibias FirstStageYinnerStageBias FirstStageYinnerStageBias nmos4 L=9e-6 W=276e-6
mNormalTransistorNmos14 StageBiasComplementarySecondStageYinner inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=4e-6 W=85e-6
mNormalTransistorPmos15 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=3e-6 W=73e-6
mNormalTransistorPmos16 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=3e-6 W=73e-6
mNormalTransistorPmos17 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=68e-6
mNormalTransistorPmos18 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=68e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp70

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 1.63101 mW
** Area: 10707 (mu_m)^2
** Transit frequency: 13.1051 MHz
** Transit frequency with error factor: 13.1052 MHz
** Slew rate: 18.9046 V/mu_s
** Phase margin: 69.328°
** CMRR: 140 dB
** negPSRR: 55 dB
** posPSRR: 45 dB
** VoutMax: 4.26001 V
** VoutMin: 0.860001 V
** VcmMax: 4.56001 V
** VcmMin: 1.34001 V


** Expected Currents: 
** NormalTransistorNmos: 67.6881 muA
** DiodeTransistorPmos: -30.1569 muA
** DiodeTransistorPmos: -30.1569 muA
** NormalTransistorNmos: 60.3131 muA
** NormalTransistorNmos: 60.3141 muA
** NormalTransistorNmos: 30.1561 muA
** NormalTransistorNmos: 30.1561 muA
** NormalTransistorNmos: 94.8591 muA
** DiodeTransistorNmos: 94.8581 muA
** NormalTransistorPmos: -94.8599 muA
** NormalTransistorPmos: -94.8609 muA
** DiodeTransistorNmos: 93.3971 muA
** NormalTransistorNmos: 93.3981 muA
** NormalTransistorPmos: -93.3979 muA
** NormalTransistorPmos: -93.3989 muA
** DiodeTransistorNmos: 9.99901 muA
** DiodeTransistorNmos: 9.99801 muA
** DiodeTransistorPmos: -67.6889 muA


** Expected Voltages: 
** ibias: 1.14501  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceStageBiasComplementarySecondStage: 0.634001  V
** inSourceTransconductanceComplementarySecondStage: 4.15801  V
** innerComplementarySecondStage: 1.26801  V
** out: 2.5  V
** outFirstStage: 4.15801  V
** outSourceVoltageBiasXXnXX1: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** innerStageBias: 0.587001  V
** sourceTransconductance: 1.86901  V
** innerTransconductance: 4.71501  V
** inner: 0.635001  V
** inner: 4.71201  V


.END