** Name: SymmetricalOpAmp73

.MACRO SymmetricalOpAmp73 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage nmos4 L=6e-6 W=312e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=9e-6 W=23e-6
mDiodeTransistorNmos3 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=192e-6
mDiodeTransistorNmos4 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=186e-6
mDiodeTransistorPmos5 inTransconductanceComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mDiodeTransistorPmos6 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=15e-6
mNormalTransistorNmos7 inTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=66e-6
mNormalTransistorNmos8 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=6e-6 W=195e-6
mNormalTransistorNmos9 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=9e-6 W=66e-6
mNormalTransistorNmos10 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=9e-6 W=186e-6
mNormalTransistorNmos11 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=6e-6 W=192e-6
mNormalTransistorNmos12 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=9e-6 W=23e-6
mNormalTransistorPmos13 innerComplementarySecondStage inTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=40e-6
mNormalTransistorPmos14 out outFirstStage sourcePmos sourcePmos pmos4 L=1e-6 W=40e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp73

** Expected Performance Values: 
** Gain: 49 dB
** Power consumption: 1.50501 mW
** Area: 10406 (mu_m)^2
** Transit frequency: 13.2461 MHz
** Transit frequency with error factor: 13.2461 MHz
** Slew rate: 21.1217 V/mu_s
** Phase margin: 67.0361°
** CMRR: 95 dB
** negPSRR: 104 dB
** posPSRR: 49 dB
** VoutMax: 4.61001 V
** VoutMin: 0.800001 V
** VcmMax: 4.46001 V
** VcmMin: 1.49001 V


** Expected Currents: 
** DiodeTransistorPmos: -39.6619 muA
** DiodeTransistorPmos: -39.6619 muA
** NormalTransistorNmos: 79.3231 muA
** DiodeTransistorNmos: 79.3241 muA
** NormalTransistorNmos: 39.6611 muA
** NormalTransistorNmos: 39.6611 muA
** NormalTransistorNmos: 106.189 muA
** NormalTransistorNmos: 106.188 muA
** NormalTransistorPmos: -106.188 muA
** DiodeTransistorNmos: 105.448 muA
** DiodeTransistorNmos: 105.447 muA
** NormalTransistorPmos: -105.447 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA


** Expected Voltages: 
** ibias: 1.23601  V
** in1: 2.5  V
** in2: 2.5  V
** inSourceStageBiasComplementarySecondStage: 0.602001  V
** inTransconductanceComplementarySecondStage: 4.05001  V
** innerComplementarySecondStage: 1.16101  V
** out: 2.5  V
** outFirstStage: 4.05001  V
** outSourceVoltageBiasXXnXX1: 0.619001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.84101  V
** innerStageBias: 0.559001  V
** inner: 0.615001  V


.END