** Name: SymmetricalOpAmp8

.MACRO SymmetricalOpAmp8 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=2e-6 W=5e-6
mDiodeTransistorNmos2 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=185e-6
mDiodeTransistorNmos3 outFirstStage outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=185e-6
mDiodeTransistorPmos4 ibias ibias sourcePmos sourcePmos pmos4 L=3e-6 W=21e-6
mDiodeTransistorPmos5 inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=50e-6
mDiodeTransistorPmos6 innerComplementarySecondStage innerComplementarySecondStage inSourceStageBiasComplementarySecondStage inSourceStageBiasComplementarySecondStage pmos4 L=1e-6 W=16e-6
mNormalTransistorNmos7 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner nmos4 L=2e-6 W=55e-6
mNormalTransistorNmos8 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance nmos4 L=2e-6 W=55e-6
mNormalTransistorNmos9 SecondStageYinnerTransconductance outFirstStage sourceNmos sourceNmos nmos4 L=3e-6 W=250e-6
mNormalTransistorNmos10 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourceNmos sourceNmos nmos4 L=3e-6 W=250e-6
mNormalTransistorPmos11 inOutputTransconductanceComplementarySecondStage ibias sourcePmos sourcePmos pmos4 L=3e-6 W=73e-6
mNormalTransistorPmos12 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=63e-6
mNormalTransistorPmos13 out innerComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias pmos4 L=1e-6 W=94e-6
mNormalTransistorPmos14 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance pmos4 L=1e-6 W=63e-6
mNormalTransistorPmos15 FirstStageYsourceTransconductance ibias sourcePmos sourcePmos pmos4 L=3e-6 W=485e-6
mNormalTransistorPmos16 SecondStageYinnerStageBias inSourceStageBiasComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=50e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp8

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 3.04101 mW
** Area: 4913 (mu_m)^2
** Transit frequency: 15.6011 MHz
** Transit frequency with error factor: 15.601 MHz
** Slew rate: 31.6302 V/mu_s
** Phase margin: 67.6091°
** CMRR: 143 dB
** negPSRR: 43 dB
** posPSRR: 49 dB
** VoutMax: 3.71001 V
** VoutMin: 0.410001 V
** VcmMax: 3.83001 V
** VcmMin: -0.00999999 V


** Expected Currents: 
** NormalTransistorPmos: -35.4259 muA
** DiodeTransistorNmos: 117.684 muA
** DiodeTransistorNmos: 117.684 muA
** NormalTransistorPmos: -235.366 muA
** NormalTransistorPmos: -117.683 muA
** NormalTransistorPmos: -117.683 muA
** NormalTransistorNmos: 158.719 muA
** NormalTransistorNmos: 158.72 muA
** NormalTransistorPmos: -158.718 muA
** NormalTransistorPmos: -158.719 muA
** DiodeTransistorPmos: -158.72 muA
** DiodeTransistorPmos: -158.721 muA
** NormalTransistorNmos: 158.721 muA
** NormalTransistorNmos: 158.72 muA
** DiodeTransistorNmos: 35.4251 muA
** DiodeTransistorPmos: -9.99899 muA


** Expected Voltages: 
** ibias: 4.15201  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputTransconductanceComplementarySecondStage: 0.815001  V
** inSourceStageBiasComplementarySecondStage: 4.01301  V
** inSourceTransconductanceComplementarySecondStage: 0.555001  V
** innerComplementarySecondStage: 2.70101  V
** out: 2.5  V
** outFirstStage: 0.555001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 3.38601  V
** innerStageBias: 3.57101  V
** innerTransconductance: 0.150001  V
** inner: 0.150001  V


.END