** Name: SymmetricalOpAmp81

.MACRO SymmetricalOpAmp81 ibias in1 in2 out sourceNmos sourcePmos
mDiodeTransistorNmos1 inOutputStageBiasComplementarySecondStage inOutputStageBiasComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=15e-6
mDiodeTransistorNmos2 ibias ibias VoltageBiasXXnXX1Yinner VoltageBiasXXnXX1Yinner nmos4 L=7e-6 W=20e-6
mDiodeTransistorNmos3 outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=217e-6
mDiodeTransistorPmos4 inOutputTransconductanceComplementarySecondStage inOutputTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=1e-6 W=19e-6
mDiodeTransistorPmos5 inSourceTransconductanceComplementarySecondStage inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=52e-6
mDiodeTransistorPmos6 inputVoltageBiasXXpXX0 inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=141e-6
mDiodeTransistorPmos7 outFirstStage outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=52e-6
mNormalTransistorNmos8 inOutputTransconductanceComplementarySecondStage outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=387e-6
mNormalTransistorNmos9 inSourceTransconductanceComplementarySecondStage in2 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=63e-6
mNormalTransistorNmos10 innerComplementarySecondStage inOutputStageBiasComplementarySecondStage StageBiasComplementarySecondStageYinner StageBiasComplementarySecondStageYinner nmos4 L=10e-6 W=80e-6
mNormalTransistorNmos11 inputVoltageBiasXXpXX0 outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=178e-6
mNormalTransistorNmos12 out inOutputStageBiasComplementarySecondStage SecondStageYinnerStageBias SecondStageYinnerStageBias nmos4 L=10e-6 W=80e-6
mNormalTransistorNmos13 outFirstStage in1 FirstStageYsourceTransconductance FirstStageYsourceTransconductance nmos4 L=5e-6 W=63e-6
mNormalTransistorNmos14 FirstStageYsourceTransconductance ibias outSourceVoltageBiasXXnXX1 outSourceVoltageBiasXXnXX1 nmos4 L=7e-6 W=217e-6
mNormalTransistorNmos15 SecondStageYinnerStageBias innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=166e-6
mNormalTransistorNmos16 StageBiasComplementarySecondStageYinner innerComplementarySecondStage sourceNmos sourceNmos nmos4 L=10e-6 W=166e-6
mNormalTransistorNmos17 VoltageBiasXXnXX1Yinner outSourceVoltageBiasXXnXX1 sourceNmos sourceNmos nmos4 L=7e-6 W=20e-6
mNormalTransistorPmos18 inOutputStageBiasComplementarySecondStage inputVoltageBiasXXpXX0 sourcePmos sourcePmos pmos4 L=5e-6 W=93e-6
mNormalTransistorPmos19 innerComplementarySecondStage inOutputTransconductanceComplementarySecondStage TransconductanceComplementarySecondStageYinner TransconductanceComplementarySecondStageYinner pmos4 L=1e-6 W=47e-6
mNormalTransistorPmos20 out inOutputTransconductanceComplementarySecondStage SecondStageYinnerTransconductance SecondStageYinnerTransconductance pmos4 L=1e-6 W=47e-6
mNormalTransistorPmos21 SecondStageYinnerTransconductance outFirstStage sourcePmos sourcePmos pmos4 L=2e-6 W=103e-6
mNormalTransistorPmos22 TransconductanceComplementarySecondStageYinner inSourceTransconductanceComplementarySecondStage sourcePmos sourcePmos pmos4 L=2e-6 W=103e-6
Capacitor1 out sourceNmos 10e-12
.EOM SymmetricalOpAmp81

** Expected Performance Values: 
** Gain: 90 dB
** Power consumption: 3.36101 mW
** Area: 14876 (mu_m)^2
** Transit frequency: 15.0241 MHz
** Transit frequency with error factor: 15.0239 MHz
** Slew rate: 21.5586 V/mu_s
** Phase margin: 65.3172°
** CMRR: 138 dB
** negPSRR: 76 dB
** posPSRR: 49 dB
** VoutMax: 4.30001 V
** VoutMin: 0.670001 V
** VcmMax: 4.5 V
** VcmMin: 1.44001 V


** Expected Currents: 
** NormalTransistorNmos: 87.8261 muA
** NormalTransistorNmos: 192.914 muA
** NormalTransistorPmos: -58.2649 muA
** DiodeTransistorPmos: -53.5339 muA
** DiodeTransistorPmos: -53.5339 muA
** NormalTransistorNmos: 107.068 muA
** DiodeTransistorNmos: 107.069 muA
** NormalTransistorNmos: 53.5331 muA
** NormalTransistorNmos: 53.5331 muA
** NormalTransistorNmos: 108.095 muA
** NormalTransistorNmos: 108.094 muA
** NormalTransistorPmos: -108.094 muA
** NormalTransistorPmos: -108.093 muA
** NormalTransistorNmos: 108.095 muA
** NormalTransistorNmos: 108.094 muA
** NormalTransistorPmos: -108.094 muA
** NormalTransistorPmos: -108.093 muA
** DiodeTransistorNmos: 9.99901 muA
** NormalTransistorNmos: 9.99801 muA
** DiodeTransistorNmos: 58.2641 muA
** DiodeTransistorPmos: -87.8269 muA
** DiodeTransistorPmos: -192.913 muA


** Expected Voltages: 
** ibias: 1.21401  V
** in1: 2.5  V
** in2: 2.5  V
** inOutputStageBiasComplementarySecondStage: 1.07901  V
** inOutputTransconductanceComplementarySecondStage: 3.68601  V
** inSourceTransconductanceComplementarySecondStage: 4.09501  V
** innerComplementarySecondStage: 0.681001  V
** inputVoltageBiasXXpXX0: 4.01701  V
** out: 2.5  V
** outFirstStage: 4.09501  V
** outSourceVoltageBiasXXnXX1: 0.608001  V
** sourceNmos: 0  V
** sourcePmos: 5  V
** sourceTransconductance: 1.87001  V
** innerStageBias: 0.276001  V
** innerTransconductance: 4.60701  V
** inner: 0.276001  V
** inner: 4.60701  V
** inner: 0.605001  V


.END